US07470700B2
Example 30B was also prepared from 5-fluoro-2-chloro-3H-pyrimidin-4-one as follows. To a solution of 5-fluoro-2-chloro-3H-pyrimidin-4-one (100.00 g, 0.67 mol) in 1:1 DMF/DME (440 mL) under a nitrogen atmosphere was added sodium iodide (10 g, 67 mmol) and the resulting slurry cooled to 0° C. While maintaining the internal temperature to ≦12° C., 1,1,3,3-tetramethylguanidine (94 mL, 0.74 mol) was added dropwise over 45 minutes to form a homogeneous solution. The ice bath was removed and a solution of 2-(bromomethyl)benzonitrile (145 g, 0.74 mol) in 1:1 DMF/DME (600 mL) was added all at once and the reaction mixture heated to 70° C. for 18 h. In-process assay (by HPLC analysis) showed complete consumption of the starting material. The reaction mixture was cooled to 30° C. and then MTBE (1.14 L) and DI water (2.29 L) were added to form a slurry which was stirred at ambient temperature for 1 h. The crude product was collected by filtration and washed with MTBE (1.14 L). The phases of the filtrate were separated and the organic layer was combined with the filter-cake and concentrated to a thick slurry which was subsequently reslurried with DME (1.00 L). Insoluble impurities were removed by vacuum filtration and washed with DME (500 mL). The filtrate was concentrated to a wet residue which was reslurried with 2-propanol (365 mL) and the solid product collected by vacuum filtration. After removal of residual IPA, the product was reslurried in ethyl acetate (6 vol) at 70° C. and heptane (6 vol) was added slowly while maintaining the internal temperature at 68-70° C. At the end of the addition of heptane, insoluble materials were still visible. The mixture was stirred for an additional 10 min after which insoluble impurities were removed by hot vacuum filtration. The filtrate was slowly cooled to room temperature and then cooled further to about 0° C. by means of a salt-ice bath. The crystallized product was collected by vacuum filtration and then reslurried in ethanol (6 vol) at 50° C., cooled to 40° C., and the product collected by vacuum filtration to give 80.62 g (45%, 95.6% AUC by HPLC) of 2-(2-chloro-5-fluoro-6-oxo-6H-pyrimidin-1-ylmethyl)-benzonitrile as an off-white solid.

reactant | 5-fluoro-2-chloro-3H-pyrimidin-4-one | FC=1C(NC(=NC1)Cl)=O | C4H2ClFN2O
reactant | 5-fluoro-2-chloro-3H-pyrimidin-4-one | 0.67 mol, 100.00 g | FC=1C(NC(=NC1)Cl)=O | C4H2ClFN2O
reactant | sodium iodide | 67 mmol, 10 g | [I-].[Na+]
reactant | 1,1,3,3-tetramethylguanidine | 0.74 mol, 94 mL | CN(C(=N)N(C)C)C | C5H13N3
reactant | 2-(bromomethyl)benzonitrile | 0.74 mol, 145 g | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
solvent | DMF DME | 600 mL | CN(C)C=O.COCCOC
solvent | DMF DME | 440 mL | CN(C)C=O.COCCOC
product | 2-(2-chloro-5-fluoro-6-oxo-6H-pyrimidin-1-ylmethyl)-benzonitrile | 80.62 g | ClC=1N(C(C(=CN1)F)=O)CC1=C(C#N)C=CC=C1 | C12H7ClFN3O
